US04310467
To a stirred suspension of 9.12 g (30 mmol) of 1α-hydroxydehydroepiandrosterone and 25.1 g (60 mmol) of ethyltriphenylphosphonium iodide in 250 ml of tetrahydrofuran under a nitrogen atmosphere was added portionwise over ca. 5 min., 6.7 g (60 mmol) of potassium tert.-butoxide. The reaction temperature rose to 30°. After stirring at room temperature over night (16 hr.), the reaction was heated at reflux (oil bath) for 4.5 hr. to produce (Z)-1α,3β-pregna-5,17(20)-diene-1,3-diol (Tlc: EtOAc, showed starting material was consumed). On cooling to 50°, 60 ml of pyridine and 30 ml of acetic anhydride were added, and the reaction solution left stirring over night (18 hr.) and then heated at reflux for 2 hr. Acetylation was still incomplete (Tlc: 4:1, hexane--ethyl acetate showed mono and diacetates). Consequently, 100 mg of 4-dimethylaminopyridine was added, and heating at reflux was continued for 5 hr. Then, the reaction solution was diluted with 250 ml of 80% aqueous methanol (v/v) and, after cooling to room temperature, was extracted with 3×200 ml of hexane. The organic phases were washed in a countercurrent manner with 250 ml of 80% aq. methanol (v/v) and evaporated under reduced pressure to give 12.0 g of crude product. Chromatography on 500 g of silica gel prepared in hexane, and elution with 200 ml fractions of 8:1, hexane--ethyl acetate afforded, in fractions 7-11, 6.8 g of impure product and, in fractions 12-17, 4.2 g of pure product. The combined fractions 7-11, on rechromatography, gave 6.2 g of pure product. Thus, a total of 10.4 g (87%) of pure 1α,3β-diacetyloxypregna-5,17(20)-diene as an amorphous solid, was obtained as a 95:5 mixture of Z and E isomers, respectively. An analytical sample of (Z)-1α,3β-diacetyloxypregna-5,17(20)-diene, obtained by two recrystallizations from methanol, had mp 90°-91°.

reactant | 1α-hydroxydehydroepiandrosterone | 30 mmol, 9.12 g | C[C@]12CC[C@H]3[C@H]([C@@H]1CCC2=O)CC=C4[C@@]3([C@H](C[C@@H](C4)O)O)C | C19H28O3
reactant | potassium tert.-butoxide | 60 mmol, 6.7 g | CC(C)([O-])C.[K+]
catalyst | ethyltriphenylphosphonium iodide | 60 mmol, 25.1 g | [I-].C(C)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
solvent | tetrahydrofuran | 250 ml | O1CCCC1 | C4H8O
product | (Z)-1α,3β-pregna-5,17(20)-diene-1,3-diol | C\C=C/1\CC[C@H]2[C@@H]3CC=C4C[C@H](C[C@@H]([C@]4(C)[C@H]3CC[C@]12C)O)O | C21H32O2
